US08012966B2
2-(5-Bromo-2-oxo-1,2-dihydro-pyrrolo[2,3-b]pyridin-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 13 with 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one as starting materials to give 2-(5-bromo-2-oxo-1,2-dihydro-pyrrolo[2,3-b]pyridin-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (35 mg, 37.0%) as a yellow solid.

reactant | 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=O | C15H21N3O2
reactant | 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | BrC=1C=C2C(=NC1)NC(C2)=O | C7H5BrN2O
product | 2-(5-bromo-2-oxo-1,2-dihydro-pyrrolo[2,3-b]pyridin-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 35 mg, 37.0% | BrC=1C=C2C(=NC1)NC(C2=CC2=C(C=1C(N(CCC1N2)CCN2CCCC2)=O)C)=O | C22H24BrN5O2
